US07241759B2
4-Bromo-2-nitrobenzoic acid. A mixture of 4-bromo-2-nitrotoluene (5.0 g, 23 mmol), KMnO4 (10.9 g, 69 mmol), and water (250 mL) was heated at reflux overnight in a 1 L round-bottom flask fitted with a reflux condenser. The brown suspended MnO2 was removed by filtration through a pad of diatomaceous earth. The filter cake was washed with water. The basic filtrate was acidified to pH˜1 with concentrated HCl and extracted with EtOAc (3×300 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo to provide pure benzoic acid (1.22 g, 22%). 1H NMR (400 MHz, CD3OD): 8.07 (d, J=1.9 Hz, 1H), 7.85 (dd, J=8.2, 1.9 Hz, 1H), 7.65 (d, J=8.2 Hz, 1H). MS (ESI): neg. ion m/z 244 [M−H]−.

reactant | 4-Bromo-2-nitrobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | 4-bromo-2-nitrotoluene | 23 mmol, 5.0 g | BrC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | KMnO4 | 69 mmol, 10.9 g | [O-][Mn](=O)(=O)=O.[K+]
catalyst | MnO2 | O=[Mn]=O
solvent | water | 250 mL | O | H2O
product | benzoic acid | 1.22 g, 22% | C(C1=CC=CC=C1)(=O)O | C7H6O2
